US05510326
2-(2,2,3-Trimethylcyclopent-3-en-1-yl)-2,4-dimethyl-4-pentenol (mixture of diastereomers)
A 4 neck 1 liter round bottomed flask was charged with 400 g of dry isopropanol and 100 g of aluminum isopropoxide (0.48 mole). The contents of the flask were refluxed (80° C.) and 200 g of 2,4-dimethyl-2-(2,2,3-trimethylcyclopent-3-en-1-yl)-4-pentenal at 95.2% (0.865 mole) were added dropwise under nitrogen over 80 minutes. The reaction was refluxed for 2 hours. Then the lights were distilled off to a pot temperature of 110° C. After cooling the batch was extracted with 150 ml of 10% sulfuric acid and 300 ml of hexane. The hexane extract was washed with 150 ml of water, 100 ml of 5% sodium carbonate, and 100 ml of brine. After drying with magnesium sulfate, the batch was filtered, concentrated in vacuo and the crude alcohol, 201.1 g, was distilled from 1 g of soda ash to afford 193.6 g of purified product (88% yield). BP 94° C./0.10 mmHg; 1H-NMR (300 MHz), δ1.007 (3H, s), 1.02 (3H, s), 1.42 (3H, s), 1.54 (3H, s), 1.83 (4H, br s), 2.0-2.4 (5H, br m), 3.60 (2H, AB quartet, JAB =11.1 Hz), 4.75 (1H, s), 4.88 (1H, s), 5.27 (1H, s); 13C-NMR (75 MHz), δ12.35, 20.07, 22.31, 25.48, 28.38, 30.96, 42.11, 45.10, 48.27, 54.77, 68.48, 114.81, 121.38, 144.22, 148.28; IR (Neat), 3400 br, 2980, 1040 cm-1 ; MS (m/e), 207 (M+ -15), 191, 109 (Base).

reactant | aluminum isopropoxide | 0.48 mole, 100 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2,4-dimethyl-2-(2,2,3-trimethylcyclopent-3-en-1-yl)-4-pentenal | 200 g | CC(C=O)(CC(=C)C)C1C(C(=CC1)C)(C)C | C15H24O
solvent | isopropanol | 400 g | C(C)(C)O | C3H8O
product | 2-(2,2,3-Trimethylcyclopent-3-en-1-yl)-2,4-dimethyl-4-pentenol | 193.6 g, 88% yield | CC1(C(CC=C1C)C(CO)(CC(=C)C)C)C | C15H26O
